US05559230
A mixture of 1-[4-(2-ethoxycarbonylmethoxybenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.00 g), aqueous ammonia (100 ml), ammonium chloride (0.3 g) and methanol (150 ml) is heated at 100° C. for 4 hours in a sealed tube. The solvent is distilled off and the resulting residue is extracted with chloroform, washed successively with water and saturated saline solution, and dried over magnesium sulfate. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; chloroform:methanol=50:1), and recrystallized from methanol/diethyl ether to give 1-[4-(2-carbamoylmethoxybenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.43 g) as white powder, m.p. 198°-199° C.

reactant | 1-[4-(2-ethoxycarbonylmethoxybenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.00 g | C(C)OC(=O)COC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C28H28N2O5
reactant | ammonia | 100 ml | N | H3N
reactant | ammonium chloride | 0.3 g | [Cl-].[NH4+]
solvent | methanol | 150 ml | CO | CH4O
product | 1-[4-(2-carbamoylmethoxybenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.43 g | C(N)(=O)COC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C26H25N3O4
